US04255182
Preparation of 2-acetamido-5-(N,N-dimethylaminosulfonyl)-1,3,4-thiadiazole
A 40% aqueous solution of dimethylamine (400 ml) was charged into a glass reaction vessel fitted with a mechanical stirrer and thermometer. The solution was cooled to 20° C. and stirred while 2-acetamido-5-chlorosulfonyl-1,3,4-thiadiazole (250 grams) was slowly added. Ther temperature of the reaction mixture was kept between 0° and 20° C. during this addition. Stirring was then continued at room temperature for a period of about 2 hours. The reaction mixture was then treated with 6N hydrochloric acid. Solids were filtered out, water washed and air dried to yield the desired product 2-acetamido-5-(N,N-dimethylaminosulfonyl)-1,3,4-thiadiazole.

reactant | 2-acetamido-5-chlorosulfonyl-1,3,4-thiadiazole | 250 grams | C(C)(=O)NC=1SC(=NN1)S(=O)(=O)Cl | C4H4ClN3O3S2
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | dimethylamine | 400 ml | CNC | C2H7N
product | 2-acetamido-5-(N,N-dimethylaminosulfonyl)-1,3,4-thiadiazole | C(C)(=O)NC=1SC(=NN1)S(=O)(=O)N(C)C | C6H10N4O3S2
